US07208494B2
c) 6-Chloro-5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
This compound was prepared in analogy to example 3, intermediate d) from 5-benzoyloxy-6-chloro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester and potassium carbonate.

reactant | 5-benzoyloxy-6-chloro-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)C1=CC=2C(=NC(=C(C2)OC(C2=CC=CC=C2)=O)Cl)N1C(=O)OC(C)(C)C | C22H21ClN2O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 6-Chloro-5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)C1=CC=2C(=NC(=C(C2)O)Cl)N1C(=O)OC(C)(C)C | C15H17ClN2O5
